US06399606B1
3-([2-(Acetylamino)ethylthio]methyl)-N,N-dimethyl-4-oxo-4-(3-pyridyl)butanamide
Ethyl chloroformate (3.85g) was added to a solution of 3-{[2-(acetylamino)-ethylthio]methyl-4-oxo-4-(3-pyridyl)-butanoic acid (10 g) and triethylamine (4.88 g) in tetrahydrofuran (THF, 150 mL) at 0° C. The reaction mixture was stirred for 5 min. A 2M solution of dimethylamine in THF (17.7 mL) was added to the reaction mixture and stirred at room temperature for 2 hrs. The reaction mixture was concentrated and purified on HPLC (C-18 prep column, 10% to 90% acetonitrile in water both containing 0.1% TFA) to give 5.1 g of the title compound; ESMS (M+1)+338.

reactant | Ethyl chloroformate | 3.85g | ClC(=O)OCC | C3H5ClO2
reactant | [2-(acetylamino)-ethylthio]methyl-4-oxo-4-(3-pyridyl)-butanoic acid | 10 g | C(C)(=O)NCCSCC(C(=O)O)CC(C=1C=NC=CC1)=O | C14H18N2O4S
reactant | triethylamine | 4.88 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | THF | 17.7 mL | O1CCCC1 | C4H8O
product | 3-([2-(Acetylamino)ethylthio]methyl)-N,N-dimethyl-4-oxo-4-(3-pyridyl)butanamide | 5.1 g | C(C)(=O)NCCSCC(CC(=O)N(C)C)C(C=1C=NC=CC1)=O | C16H23N3O3S
